US06656884B2
3-[4-Cyano-3-nitrophenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione
Potassium carbonate (16.6 g) and potassium cyanide (7.8 g) were added to a solution of 3-[4-fluoro-3-nitrophenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione (31.9 g) in 250 ml of anhydrous N,N-dimethylformamide. The reaction mixture was subsequently stirred for a total of 45 hours at 75-80° C., with two further additions of potassium cyanide (in total 4.6 g) since the reaction had not proceeded completely. For working-up, water (250 ml) was added to the reaction mixture after it had cooled. The pH was subsequently brought to 2-3 by adding 60 ml of 1 N. hydrochloric acid. After nitrogen had been passed through the mixture for 4 hours to expel the hydrocyanic acid which had been liberated, the precipitate formed was separated off, washed with water and petroleum ether and dried. Yield: 17.0 g; m.p.: 135° C.

reactant | Potassium carbonate | 16.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium cyanide | 7.8 g | [C-]#N.[K+]
reactant | 3-[4-fluoro-3-nitrophenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | 31.9 g | FC1=C(C=C(C=C1)N1C(NC(=CC1=O)C(F)(F)F)=O)[N+](=O)[O-] | C11H5F4N3O4
reactant | potassium cyanide | 4.6 g | [C-]#N.[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | hydrocyanic acid | C#N | CHN
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | water | 250 ml | O | H2O
product | 3-[4-Cyano-3-nitrophenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | C(#N)C1=C(C=C(C=C1)N1C(NC(=CC1=O)C(F)(F)F)=O)[N+](=O)[O-] | C12H5F3N4O4
